US07534797B2
3-Methylenecyclobutanecarboxylic acid [(3-chloropyrazin-2-yl)-(2-phenyl-quinolin-7-yl)-methyl]-amide
C-(3-Chloro-pyrazin-2-yl)-C-(2-phenylquinolin-7-yl)-methylamine (690 mg, 1.99 mmol) was dissolved in 6.0 mL of CH2Cl2 followed by the addition of EDC (600 mg, 2.98 mmol) and HOBT (300 mg, 1.99 mmol). 3-Methylenecyclobutanecarboxylic acid (300 mg, 2.59 mmol) was dissolved in 1.0 mL of CH2Cl2 and added to the homogenous reaction mixture. After 24 h the reaction was concentrated in vacuo and dissolved in EtOAc and the organic layer was washed with sat. NaHCO3. The organic layer was washed with H2O and brine. The organic layers where combined, dried over sodium sulfate, filtered and concentrated in vacuo. The crude product was purified by silica gel column chromatography [Jones Flashmaster, 10 g cartridge, eluting with 50% EtOAc:Hex] to obtain the desired product as a white fluffy solid; 1H NMR (400 MHz, CDCl3): δ=2.82-2.92 (m, 2H), 2.99-3.06 (m, 2H), 4.77-4.80 (m, 2H), 6.81 (d, 1H, J=7.8 Hz), 7.45-7.54 (m, 3H), 7.83-7.88 (m, 3H), 8.10 (d, 2H, J=7.1Hz), 8.22-8.23 (brm, 1H), 8.39 (d, 1H, J=1.79 Hz), 8.59 (d, 1H, J=2.5 Hz); MS (ES+): 440.93 (M+1), 442.91 (M+3).

reactant | C-(3-Chloro-pyrazin-2-yl)-C-(2-phenylquinolin-7-yl)-methylamine | 1.99 mmol, 690 mg | ClC=1C(=NC=CN1)C(C1=CC=C2C=CC(=NC2=C1)C1=CC=CC=C1)N | C20H15ClN4
reactant | EDC | 2.98 mmol, 600 mg
reactant | HOBT | 1.99 mmol, 300 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 3-Methylenecyclobutanecarboxylic acid | 2.59 mmol, 300 mg | C=C1CC(C1)C(=O)O | C6H8O2
solvent | CH2Cl2 | 6.0 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1.0 mL | C(Cl)Cl | CH2Cl2
product | 3-Methylenecyclobutanecarboxylic acid [(3-chloropyrazin-2-yl)-(2-phenyl-quinolin-7-yl)-methyl]-amide | ClC=1C(=NC=CN1)C(C1=CC=C2C=CC(=NC2=C1)C1=CC=CC=C1)NC(=O)C1CC(C1)=C | C26H21ClN4O
